US06500863B1
N-ethyl-6-chloro-2-hydroxy-3-nitrobenzenesulfonamide
Following the general hydrolysis procedure outlined in example 15, N-ethyl-2,6dichloro-3-nitrobenzenesulfonamide (1.16 g, 3.88mmol), 60% NaH (466 mg, 11.64 mmol) and water (70 μL, 3.88 mmol) were reacted. The crude product (1.34 g) was carried on to the next step without purification. 1H NMR (MeOD-d4): δ 8.07 (d, 1H), 7.25 (d, 1H), 3.05 (q, 2H), 1.12 (t, 3H).

reactant | N-ethyl-2,6dichloro-3-nitrobenzenesulfonamide | 3.88mmol, 1.16 g | C(C)NS(=O)(=O)C1=C(C(=CC=C1Cl)[N+](=O)[O-])Cl | C8H8Cl2N2O4S
reactant | NaH | 11.64 mmol, 466 mg | [H-].[Na+]
reactant | water | 3.88 mmol, 70 μL | O | H2O
product | N-ethyl-6-chloro-2-hydroxy-3-nitrobenzenesulfonamide | C(C)NS(=O)(=O)C1=C(C(=CC=C1Cl)[N+](=O)[O-])O | C8H9ClN2O5S
